US05270342
4-(2-[2-Trifluoromethylphenyl]acetyl)-3,5-dimethylaniline (obtained as a solid, m.p. 168° C., by reacting 2-(2-trifluoromethylphenyl)acetyl chloride with 3,5-dimethylaniline in THF solution in the presence of calcium carbonate) was reacted with an excess of chlorosulfonic acid at 60° C., using an analogous procedure to that described in Organic Synthesis, Coll. Vol. I, at page 85, to give 4-(2-[2-trifluoromethylphenyl]acetamido)-2,6-dimethylbenzenesulfonyl chloride, as a solid in about 47% yield, which was used without purification.

reactant | 2-(2-trifluoromethylphenyl)acetyl chloride | FC(C1=C(C=CC=C1)CC(=O)Cl)(F)F | C9H6ClF3O
reactant | 3,5-dimethylaniline | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-[2-trifluoromethylphenyl]acetamido)-2,6-dimethylbenzenesulfonyl chloride | about 47% yield | FC(C1=C(C=CC=C1)CC(=O)NC1=CC(=C(C(=C1)C)S(=O)(=O)Cl)C)(F)F | C17H15ClF3NO3S
